US07273947B1
13.7 g (0.05 mol) of ethyl 2-dimethylamino-1-phenyl-3-cyclohexene-1-carboxylate (mixture of cis and trans isomers) [ethyl 3-dimethylamino-2-phenylpropionate content (HPLC): 1%], dissolved in 40 ml of cyclohexane, was refluxed with 3.0 g (0.05 mol) of acetic acid for 2 hours. After cooling, 30 ml of water were added. The two-phase mixture was made alkaline with sodium hydroxide solution. The aqueous phase was then separated off. The organic phase was washed with 30 ml of water and concentrated. 13.4 g (98%) of ethyl 2-dimethylamino-1-phenyl-3-cyclohexene-1-carboxylate isomer mixture of unchanged composition in respect of the cis/trans ratio were obtained with an ethyl 3-dimethylamino-2-phenyl-propionate content of 0.05% (HPLC).

reactant | ethyl 2-dimethylamino-1-phenyl-3-cyclohexene-1-carboxylate | 0.05 mol, 13.7 g | CN(C1C(CCC=C1)(C(=O)OCC)C1=CC=CC=C1)C | C17H23NO2
reactant | acetic acid | 0.05 mol, 3.0 g | C(C)(=O)O | C2H4O2
reactant | water | 30 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | cyclohexane | 40 ml | C1CCCCC1 | C6H12
product | ethyl 3-dimethylamino-2-phenyl-propionate | CN(CC(C(=O)OCC)C1=CC=CC=C1)C | C13H19NO2
